US06313122B1
C. 2-[[1-(4-Pyridyl)piperidin-4-ylcarbonyl]amino]-N-phenylbenzamide Hydrochloride
Using the procedure described in Example 138, N-phenyl-2-aminobenzamide (0.97 mmol) and N-(4-pyridyl)isonipecotoyl chloride (1.9 mmol), purifying with RPHPLC Method A, yielded 233 mg (55%) of the title compound.

reactant | N-phenyl-2-aminobenzamide | 0.97 mmol | C1(=CC=CC=C1)NC(C1=C(C=CC=C1)N)=O | C13H12N2O
reactant | N-(4-pyridyl)isonipecotoyl chloride | 1.9 mmol | N1=CC=C(C=C1)N1CCC(C(=O)Cl)CC1 | C11H13ClN2O
product | 2-[[1-(4-Pyridyl)piperidin-4-ylcarbonyl]amino]-N-phenylbenzamide Hydrochloride | 233 mg, 55% | Cl.N1=CC=C(C=C1)N1CCC(CC1)C(=O)NC1=C(C(=O)NC2=CC=CC=C2)C=CC=C1 | InChI=1S/C24H24N4O2.ClH/c29-23(18-12-16-28(17-13-18)20-10-14-25-15-11-20)27-22-9-5-4-8-21(22)24(30)26-19-6-2-1-3-7-19;/h1-11,14-15,18H,12-13,16-17H2,(H,26,30)(H,27,29);1H
